US04292317
2.18 g of 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 3 cm3 of morpholine and 30 cm3 of DMSO were heated for 5 hours at 125°-130° C. About 3 hours were required for total dissolution of the dihalogeno-acid, and the reaction product then precipitated from the mixture. After returning to room temperature, the mixture was diluted with 30 cm3 of water. The precipitate was filtered off, washed with water and recrystallised from a mixture of DMF (1 volume) and methylcellosolve (1 volume). 1.68 g of 6-chloro-1-methyl-7-morpholino-4-oxo-1,4-dihydro quinoline-3-carboxylic acid were obtained; m.p. 334° C.

reactant | 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.18 g | ClC=1C=C2C(C(=CN(C2=CC1Cl)C)C(=O)O)=O | C11H7Cl2NO3
reactant | morpholine | 3 cm3 | N1CCOCC1 | C4H9NO
solvent | DMSO | 30 cm3 | CS(=O)C | C2H6OS
product | 6-chloro-1-methyl-7-morpholino-4-oxo-1,4-dihydro quinoline-3-carboxylic acid | 1.68 g | ClC=1C=C2C(C(=CN(C2=CC1N1CCOCC1)C)C(=O)O)=O | C15H15ClN2O4
